US09108921B2
Step A: 2-amino-6-fluorobenzo[d]thiazole-4-sulfonyl chloride (26B)
6-fluorobenzo[d]thiazol-2-amine (1 g, 5.95 mol) was added dropwise to chlorosulfonic acid (5.0 mmol) at 0° C. After the addition was complete, the mixture was stirred at room temperature for 0.5 h and then heated at 105° C. and stirred overnight. The resulting mixture was cooled to −10° C. and quenched by pouring on crushed ice slowly. The resulting mixture was extracted with EtOAc (100 mL×2). The combined organic phase was washed with brine, dried over anhy. Na2SO4 and concentrated in vacuo. Column chromatography (50% PE/EtOAc) afforded 200 mg of title compound. LC-MS: m/z 266.7 (M+H)+

reactant | 6-fluorobenzo[d]thiazol-2-amine | 5.95 mol, 1 g | FC1=CC2=C(N=C(S2)N)C=C1 | C7H5FN2S
reactant | chlorosulfonic acid | 5.0 mmol | ClS(=O)(=O)O | ClHO3S
product | 2-amino-6-fluorobenzo[d]thiazole-4-sulfonyl chloride | 200 mg | NC=1SC=2C(N1)=C(C=C(C2)F)S(=O)(=O)Cl | C7H4ClFN2O2S2
